US08633207B2
To 4-chloro-2-(difluoro(5-fluoropyridin-2-yl)methyl)quinazoline (100 mg, 0.32 mmol) was added a solution of KI (20 mg, 0.12 mmol), DIEA (0.068 mL, 0.39 mmol), and 1H-pyrazol-3-amine (40 mg, 0.48 mmol) in DMF (2 mL). The mixture was stirred overnight at rt. AcOH (0.14 mL) was added and the mixture was purified by preparative HPLC (Varian diphenyl reverse phase column, eluted with gradient of solvent B=0.05% AcOH/ACN and solvent A=0.05% AcOH/H2O) to afford 2-(difluoro(5-fluoropyridin-2-yl)methyl)-N-(1H-pyrazol-3-yl)quinazolin-4-amine (15 mg, 13%). 1H NMR (300 MHz, DMSO-d6) δ 12.52 (br s, 1H), 10.82 (br s, 1H), 8.53-8.86 (m, 2H), 7.77-8.13 (m, 4H), 7.57-7.74 (m, 2H), 6.50 (br s, 1H); LC-MS (ESI) m/z 357 (M+H)+.

reactant | 4-chloro-2-(difluoro(5-fluoropyridin-2-yl)methyl)quinazoline | 0.32 mmol, 100 mg | ClC1=NC(=NC2=CC=CC=C12)C(C1=NC=C(C=C1)F)(F)F | C14H7ClF3N3
reactant | DIEA | 0.39 mmol, 0.068 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1H-pyrazol-3-amine | 0.48 mmol, 40 mg | N1N=C(C=C1)N | C3H5N3
reactant | AcOH | 0.14 mL | CC(=O)O | C2H4O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-(difluoro(5-fluoropyridin-2-yl)methyl)-N-(1H-pyrazol-3-yl)quinazolin-4-amine | 15 mg, 13% | FC(C1=NC2=CC=CC=C2C(=N1)NC1=NNC=C1)(C1=NC=C(C=C1)F)F | C17H11F3N6
